US08183246B2
(3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylbutoxy)acetic acid
Add 4.8 ml of 11.25 N sodium hydroxide solution to a solution of 2.19 g (5.41 mmol) 4-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}pentan-2-ol in 20 ml toluene. After adding 184 mg (0.54 mmol) tetra-n-butylammonium hydrogensulphate and 2.11 g (10.83 mmol) tert.-butyl bromoacetate, stir the reaction mixture for 15 h at 70° C. After cooling to room temperature, adjust to pH 7 with concentrated hydrochloric acid and extract three times with 50 ml dichloromethane each time. Wash the combined organic extracts with satd. aqueous sodium chloride solution, dry over sodium sulphate, and filter. Concentrate the filtrate by vacuum evaporation. Take up the residue in ethyl acetate and purify by flash chromatography on silica gel (solvent: first ethyl acetate, then ethyl acetate/methanol 5:1). Purify the product obtained once more by preparative RP-HPLC (gradient: water/acetonitrile). 0.29 g (11% of theor.) of the desired product is obtained as a racemic mixture of diastereomers.

reactant | sodium hydroxide | 11.25 N, 4.8 ml | [OH-].[Na+]
reactant | 4-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}pentan-2-ol | 5.41 mmol, 2.19 g | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OC(CC(C)O)C)C2=CC=CC=C2 | C24H24N2O4
reactant | tert.-butyl bromoacetate | 10.83 mmol, 2.11 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium hydrogensulphate | 0.54 mmol, 184 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-1-methylbutoxy)acetic acid | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OC(CC(OCC(=O)O)C)C)C2=CC=CC=C2 | C26H26N2O6
